### PR TITLE
[Merged by Bors] - feat(RingTheory): the smooth locus of an algebra

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean [hunk 1]
```diff
@@ -458,6 +481,27 @@ noncomputable
 def H1Cotangent.map : H1Cotangent R S' →ₗ[S'] H1Cotangent S T :=
   Extension.H1Cotangent.map (Generators.defaultHom _ _).toExtensionHom
 
+/-- Isomorphic algebras induce isomorphic `H¹(L_{S/R})`. -/
+noncomputable
+def H1Cotangent.mapEquiv (e : S ≃ₐ[R] S') :
+    H1Cotangent R S ≃ₗ[R] H1Cotangent R S' :=
+  letI := e.toRingHom.toAlgebra
+  letI := e.symm.toRingHom.toAlgebra
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/CotangentComplex.lean:489]: Does `algebraize` not work here?

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean [hunk 2]
```diff
@@ -433,6 +438,24 @@ lemma toKaehler_cotangentSpaceBasis (i) :
 
 end Generators
 
+-- TODO: generalize to essentially of finite presentation algebras
+open KaehlerDifferential in
+attribute [local instance] Module.finitePresentation_of_projective in
+instance [Algebra.FinitePresentation R S] : Module.FinitePresentation S (Ω[S⁄R]) := by
+  obtain ⟨n, f, hf, hf'⟩ := FinitePresentation.out (R := R) (A := S)
+  let P : Algebra.Generators R S := .ofSurjective (fun x ↦ f (.X x)) (by convert hf; ext; simp)
+  have : Algebra.FiniteType R P.toExtension.Ring := .mvPolynomial _ (Fin n)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/CotangentComplex.lean:447]: I think we should have a lemma `Algebra.exists_presentation_isFinite_iff_finitePresentation` instead of constructing a presentation by hand here.

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 3]
```diff
@@ -241,6 +241,23 @@ lemma Module.finitePresentation_of_ker [Module.FinitePresentation R N]
     LinearMap.ker_eq_bot.mpr (Submodule.injective_subtype (LinearMap.ker l)), Submodule.comap_bot]
   exact (Module.FinitePresentation.fg_ker f hf).map (Submodule.subtype _)
 
+/-- Given an exact sequence `0 → M → N → P → 0`
+with `N` finitely presented and `P` projective, then `M` is also finitely presented. -/
+lemma Module.finitePresentation_of_projective_of_exact
+    {P : Type*} [AddCommGroup P] [Module R P]
+    [Module.FinitePresentation R N] [Module.Projective R P]
+    (f : M →ₗ[R] N) (g : N →ₗ[R] P)
+    (hf : Function.Injective f) (hg : Function.Surjective g) (H : Function.Exact f g) :
```
Comment (chrisflav) [inline Mathlib/Algebra/Module/FinitePresentation.lean:250]: Maybe the assumptions should be a split exact sequence instead of `Module.Projective`? This lemma does not really have anything to do with projectivity except that the latter provides a splitting.

File: Mathlib/RingTheory/Smooth/Locus.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+
+lemma smoothLocus_eq_univ_iff [FinitePresentation R A] :
+    smoothLocus R A = Set.univ ↔ Algebra.FormallySmooth R A := by
+  have := IsLocalization.atUnits A (.powers 1) (S := Localization.Away (1 : A)) (by simp)
+  rw [Algebra.FormallySmooth.iff_of_equiv (this.restrictScalars R),
+    ← basicOpen_subset_smoothLocus_iff]
+  simp
+
+lemma isOpen_smoothLocus [FinitePresentation R A] : IsOpen (smoothLocus R A) := by
+  rw [smoothLocus_eq_compl_support_inter, isOpen_iff_forall_mem_open]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Locus.lean:88]: It's very sad that the proof is not just the combination of "free locus is open" and "support is closed" because it is not clear whether `H1Cotangent` is finite. Maybe you can add a comment explaining this?

File: Mathlib/RingTheory/Smooth/Locus.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+
+universe u
+
+variable (R A : Type u) [CommRing R] [CommRing A] [Algebra R A]
+
+namespace Algebra
+
+variable {A} in
+/-- An `R`-algebra `A` is smooth at a prime `p` of `A` if `Aₚ` is formally smooth over `R`. -/
+abbrev IsSmoothAt (p : Ideal A) [p.IsPrime] : Prop :=
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Smooth/Locus.lean:32]: This is intended for finitely presented algebras so I think the name should be fine (I should add a warning about this in the docstring). In this case $A_p$ is indeed smooth over $R$ (if you use the essentially of finite presentation definition), or equivalently there is a $p \in D(f)$ such that $A_f$ is smooth (the definition in stacks)

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/CotangentComplex.lean:489]: This is constructing data so I'm more reluctant to use tactics here.

File: Mathlib/RingTheory/Extension.lean [hunk 6]
```diff
@@ -416,6 +416,13 @@ lemma Cotangent.map_comp (f : Hom P P') (g : Hom P' P'') :
   simp only [map_mk, Hom.toAlgHom_apply, Hom.comp_toRingHom, RingHom.coe_comp, Function.comp_apply,
     val_mk, LinearMap.coe_comp, LinearMap.coe_restrictScalars]
 
+lemma Cotangent.finite (hP : P.ker.FG) :
+    Module.Finite S P.Cotangent := by
+  refine ⟨.of_restrictScalars (R := P.Ring) _ ?_⟩
+  rw [Submodule.restrictScalars_top, ← LinearMap.range_eq_top.mpr Extension.Cotangent.mk_surjective,
+    ← Submodule.map_top]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Extension.lean:423]: Is it possible to factor these two lines out in a reasonable separate lemma?

**Comment by chrisflav** [comment]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean [hunk 7]
```diff
@@ -458,6 +472,27 @@ noncomputable
 def H1Cotangent.map : H1Cotangent R S' →ₗ[S'] H1Cotangent S T :=
   Extension.H1Cotangent.map (Generators.defaultHom _ _).toExtensionHom
 
+/-- Isomorphic algebras induce isomorphic `H¹(L_{S/R})`. -/
+noncomputable
+def H1Cotangent.mapEquiv (e : S ≃ₐ[R] S') :
+    H1Cotangent R S ≃ₗ[R] H1Cotangent R S' :=
+  letI := e.toRingHom.toAlgebra
```
Comment (jcommelin) [inline Mathlib/RingTheory/Kaehler/CotangentComplex.lean:479]:
```suggestion
  -- we are constructing data, so we do not use `algebraize`
  letI := e.toRingHom.toAlgebra
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by erdOne** [comment]
bors merge
